US06545016B1
4-[[2-(Dimethylamino)ethoxy](phenyl)methyl]benzoyl chloride (1 equivalent) was added dropwise to a suspension of 4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butan-1-amine (0.22 g) in N,N-dimethylformamide (7 ml). At 1 hour, triethylamine (2 equivalents) was added followed by the addition at 2 hours of a small amount (approx. 10 mole %) of 4-dimethyaminopyridine. The reaction was maintained at room temperature overnight. The resulting mixture was poured into water and the pH was adjusted to 13. The aqueous fraction was extracted with chloroform (3×). The combined organic fractions were sequentially washed with water and brine; dried (magnesium sulfate); filtered; and concentrated to yield a yellow oil. The crude product was submitted to flash column chromatography [30 g silica gel, gradient elution:dichloromethane:methanol triethylamine (100:0:0 to 97:2:1 to 92:7: 1). A final HPLC purification using the method described above provided 83 mg of N-[4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-4-[[2-(dimethylamino)ethoxy](phenyl)methyl]benzamide as a trifluoroacetate salt.

reactant | 4-[[2-(Dimethylamino)ethoxy](phenyl)methyl]benzoyl chloride | 1 equivalent | CN(CCOC(C1=CC=C(C(=O)Cl)C=C1)C1=CC=CC=C1)C | C18H20ClNO2
reactant | 4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butan-1-amine | 0.22 g | NC1=NC(=C(C2=C1N=CN2CCCCN)C)C | C12H19N5
reactant | triethylamine | 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethyaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[4-(4-amino-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-4-[[2-(dimethylamino)ethoxy](phenyl)methyl]benzamide | 83 mg | NC1=NC(=C(C2=C1N=CN2CCCCNC(C2=CC=C(C=C2)C(C2=CC=CC=C2)OCCN(C)C)=O)C)C | C30H38N6O2
